US07259266B2
Step 3. Preparation of ethyl 6,7-dichloro-8-methoxy-5-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
Pd(PPh3)4 (0.13 g, 0.85 mmol), K2CO3 (0.34 g, 0.85 mmol) and trimethylboroxine (0.14 g, 0.85 mmol) was added to a stirring solution of ethyl 5-bromo-6,7-dichloro-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.38 g, 0.85 mmol) dissolved in 1,4-dioxane and heated to reflux for 24 hrs. Allowed to cool to R.T., filtered through celite and washed with EtOAc. The resulting solution was condensed in vacuo and purified by flash chromatography (silica gel) and eluted with 10% EtOAc/ hexanes to yield 0.18 g (56%) of the title compound as an amorphous solid: GCMS m/z 384.0 (M+). 1H NMR (CDCl3/300 MHz) 7.92 (s, 1H), 5.80 (q, 1H, J=7.0 Hz), 4.35 (m, 2H), 3.89 (s, 3H), 2.47 (s, 3H), 1.36 (m, 3H).

reactant | K2CO3 | 0.85 mmol, 0.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxine | 0.85 mmol, 0.14 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | ethyl 5-bromo-6,7-dichloro-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.85 mmol, 0.38 g | BrC1=C2C=C(C(OC2=C(C(=C1Cl)Cl)OC)C(F)(F)F)C(=O)OCC | C14H10BrCl2F3O4
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.85 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 6,7-dichloro-8-methoxy-5-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.18 g, 56% | ClC=1C(=C2C=C(C(OC2=C(C1Cl)OC)C(F)(F)F)C(=O)OCC)C | C15H13Cl2F3O4
